US04933453
3-(4-(1-(6-Chlorobenzo[b]thiophen-3-yl)-4-piperazinyl)butyl)-2,5,5-trimethyl-4-thiazolidinone hydrochloride
A mixture of 3-(4-bromobutyl)-2,5,5-trimethyl-4-thiazolidinone (5.00 g), 6-chloro-3-piperazinylbenzo[b]thiophene (5.41 g), K2CO3 (8.63 g) and NaI (400 mg) in acetonitrile (200 ml) was heated at 90° C. for 16.5 hours and the product was processed in substantially the same manner as in Example 10 to afford 2.25 g of powder, m.p. 199°-202° C.

reactant | 3-(4-bromobutyl)-2,5,5-trimethyl-4-thiazolidinone | 5.00 g | BrCCCCN1C(SC(C1=O)(C)C)C | C10H18BrNOS
reactant | 6-chloro-3-piperazinylbenzo[b]thiophene | 5.41 g | ClC=1C=CC2=C(SC=C2N2CCNCC2)C1 | C12H13ClN2S
reactant | K2CO3 | 8.63 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 400 mg | [Na+].[I-]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 3-(4-(1-(6-Chlorobenzo[b]thiophen-3-yl)-4-piperazinyl)butyl)-2,5,5-trimethyl-4-thiazolidinone hydrochloride | 2.25 g | Cl.ClC=1C=CC2=C(SC=C2N2CCN(CC2)CCCCN2C(SC(C2=O)(C)C)C)C1 | InChI=1S/C22H30ClN3OS2.ClH/c1-16-26(21(27)22(2,3)29-16)9-5-4-8-24-10-12-25(13-11-24)19-15-28-20-14-17(23)6-7-18(19)20;/h6-7,14-16H,4-5,8-13H2,1-3H3;1H
